US07875645B2
To a solution of 1.08 g (14 mmol) dimethylsulfoxide in 100 ml dichloromethane cooled to −78° C. was added a solution of 1.82 g (14 mmol) oxalyl chloride in 7 ml dichloromethane. The mixture was stirred for 50 minutes at −78° C. and then a solution of 0.620 g (3 mmol) 2-(2,6-diethyl-benzyl)-4,5-dihydro-1H-imidazole in 80 ml dichloromethane was added and stirring continued at −78° C. for 90 minutes. Then 2.90 g triethylamine were added and the reaction mixture warmed to ambient temperature and stirring continued for 2 hours. Concentrated ammonia was added and the reaction mixture extracted with ethyl acetate, the combined extracts washed with brine, dried over Na2SO4, filtered and evaporated. Purification on silica gel by flash-chromatography with a heptane/ethyl acetate gradient followed by trituration of residue of the collected and evaporated fractions in tert.-butyl methyl ether provided 0.475 g 2-(2,6-diethyl-benzyl)-1H-imidazole as colourless solid: MS (ISP): 215.2 ((M+H)+.).

reactant | dimethylsulfoxide | 14 mmol, 1.08 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 14 mmol, 1.82 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2,6-diethyl-benzyl)-4,5-dihydro-1H-imidazole | 3 mmol, 0.620 g | C(C)C1=C(CC=2NCCN2)C(=CC=C1)CC | C14H20N2
reactant | ammonia | N | H3N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2.90 g | C(C)N(CC)CC | C6H15N
product | 2-(2,6-diethyl-benzyl)-1H-imidazole | 0.475 g | C(C)C1=C(CC=2NC=CN2)C(=CC=C1)CC | C14H18N2
